### PR TITLE
properties of equivalences

### PR DESCRIPTION
**Pull request by felixwellen**
'cong f' is an equivalence, if f is an equivalence
path split equivalences are logically the same as equivalences

### CODE REVIEW

File: Cubical/Foundations/EquivCharacterization.agda [hunk 1]
```diff
@@ -0,0 +1,61 @@
...
+  Everything about path split equivalences is from https://arxiv.org/abs/1706.07526
+-}
+record isPathSplitEquiv {ℓ} {A B : Set  ℓ} (f : A → B) : Set ℓ where
+  field
+    s : B → A 
+    isSection : section f s
+    isSectionCong : (x y : A) → Σ[ s' ∈ (f(x) ≡ f(y) → x ≡ y) ] section (cong f) s'
+
+idIsPathSplitEquiv : ∀ {ℓ} {A : Set ℓ} → isPathSplitEquiv (λ (x : A) → x)
+idIsPathSplitEquiv = record {
```
Comment (mortberg) [inline Cubical/Foundations/EquivCharacterization.agda]: This would look nicer if it was defined using copatterns: https://agda.readthedocs.io/en/v2.5.2/language/copatterns.html

This should also have better computational behavior (as Agda doesn't eagerly unfold things defined using copatterns).

For a concrete example see:  https://github.com/agda/cubical/blob/master/Cubical/Data/BinNat/BinNat.agda#L282

File: Cubical/Foundations/EquivCharacterization.agda [hunk 2]
```diff
@@ -0,0 +1,61 @@
...
+                       s = λ x → x ;
+                       isSection = λ x → refl ;
+                       isSectionCong = λ x y → (λ p → p) , λ p _ → p
+                     }
+
+module _ {ℓ} {A B : Set ℓ} where
+  toIsEquiv : (f : A → B) → isPathSplitEquiv f → isEquiv f 
+  toIsEquiv f record { s = r ; isSection = isSection ; isSectionCong = isSectionCong } =
```
Comment (mortberg) [inline Cubical/Foundations/EquivCharacterization.agda]: Please use copatterns

File: Cubical/Foundations/EquivCharacterization.agda [hunk 3]
```diff
@@ -0,0 +1,61 @@
...
+    (isoToEquiv f r isSection λ (x : A) → (isSectionCong (r (f x)) x).fst (isSection (f x))) .snd
+
+  sectionOfEquiv : {A' B' : Set ℓ} → (f : A' → B') → isEquiv f → B' → A'
+  sectionOfEquiv f record { equiv-proof = all-fibers-contractible } x =
```
Comment (mortberg) [inline Cubical/Foundations/EquivCharacterization.agda]: Copatterns :)

File: Cubical/Foundations/EquivCharacterization.agda [hunk 4]
```diff
@@ -0,0 +1,61 @@
...
+    all-fibers-contractible x .fst .fst
+
+  isSection : {A' B' : Set ℓ} → (f : A' → B') → (pf : isEquiv f) → section f (sectionOfEquiv f pf)
+  isSection f record { equiv-proof = all-fibers-contractible } =
```
Comment (mortberg) [inline Cubical/Foundations/EquivCharacterization.agda]: Copatterns

File: Cubical/Foundations/EquivCharacterization.agda [hunk 5]
```diff
@@ -0,0 +1,61 @@
...
+    λ x → all-fibers-contractible x .fst .snd 
+
+  fromIsEquiv : (f : A → B) → isEquiv f → isPathSplitEquiv f
+  fromIsEquiv f pf = 
+    record {
```
Comment (mortberg) [inline Cubical/Foundations/EquivCharacterization.agda]: And guess what... please use copatterns :)

File: Cubical/Foundations/EquivCharacterization.agda [hunk 6]
```diff
@@ -0,0 +1,61 @@
...
+open import Cubical.Foundations.Univalence
+open import Cubical.Foundations.Equiv
+
+isEquivCong : ∀ {ℓ} {A B : Set ℓ} {x y : A} (e : A ≃ B) → isEquiv (λ (p : x ≡ y) → (cong (e .fst) p))
+isEquivCong e = EquivJ (λ (B' A' : Set _) (e' : A' ≃ B') →
+                         (x' y' : A') → isEquiv (λ (p : x' ≡ y') → cong (e' .fst) p))
+                       (λ _ x' y' → idIsEquiv (x' ≡ y')) _ _ e _ _
+
+congEquiv : ∀ {ℓ} {A B : Set ℓ} {x y : A} (e : A ≃ B) → (x ≡ y) ≃ (e .fst x ≡ e .fst y)
+congEquiv e = ((λ (p : _ ≡ _) → cong (e .fst) p) , isEquivCong e)
```
Comment (mortberg) [inline Cubical/Foundations/EquivCharacterization.agda]: Could you please move this to the Equiv file? I think it makes more sense to have it there instead of in this file.

File: Cubical/Foundations/EquivCharacterization.agda (hunk 2 above)
Comment (mortberg) [reply Cubical/Foundations/EquivCharacterization.agda]: Here's another example for `isEquiv` using copatterns: https://github.com/agda/cubical/blob/master/Cubical/Foundations/Equiv.agda#L19

Comment (felixwellen) [reply Cubical/Foundations/EquivCharacterization.agda]: Hi Anders! This one is different: the record is an argument now. I don't see how it is a copattern.

Comment (mortberg) [reply Cubical/Foundations/EquivCharacterization.agda]: Oh I see, I read it a bit too fast when I was tired...

File: Cubical/Foundations/EquivCharacterization.agda (hunk 5 above)
Comment (mortberg) [reply Cubical/Foundations/EquivCharacterization.agda]: But this could be done with copatterns?

Comment (felixwellen) [reply Cubical/Foundations/EquivCharacterization.agda]: Yes. I forgot to commit. I was trying to figure out, what makes it so slow to type check.

File: Cubical/Foundations/EquivCharacterization.agda (hunk 6 above)
Comment (felixwellen) [reply Cubical/Foundations/EquivCharacterization.agda]: It uses univalences, so that would introduce cyclic dependencies.

File: Cubical/Foundations/EquivCharacterization.agda (hunk 5 above)
Comment (felixwellen) [reply Cubical/Foundations/EquivCharacterization.agda]: Ah. No. It is in my last commit.

File: Cubical/Foundations/EquivCharacterization.agda (hunk 6 above)
Comment (mortberg) [reply Cubical/Foundations/EquivCharacterization.agda]: I see... That's unfortunate. I wonder how we could reorganize things to avoid this

File: Cubical/Foundations/EquivCharacterization.agda (hunk 5 above)
Comment (mortberg) [reply Cubical/Foundations/EquivCharacterization.agda]: What is slow to typecheck?

File: Cubical/Foundations/EquivCharacterization.agda (hunk 6 above)
Comment (mortberg) [reply Cubical/Foundations/EquivCharacterization.agda]: Maybe introducing a file on isomorphisms could help this. It would contain the proof that iso implies equiv which is used in Univalence. This would make the definition not be cyclic as the definition of equivalence is exported by the Core.

Comment (felixwellen) [reply Cubical/Foundations/EquivCharacterization.agda]: Did it. But I had to move things like 'compEquiv' to the new 'Isomorphism...'

File: Cubical/Foundations/EquivCharacterization.agda (hunk 5 above)
Comment (felixwellen) [reply Cubical/Foundations/EquivCharacterization.agda]: The 'fromIsEquiv' takes something like 5 seconds. I made everything explicit now, but it is still slow.

Comment (Saizan) [reply Cubical/Foundations/EquivCharacterization.agda]: What's slow is checking that the inferred type of `isSec cong-f eq-cong` is the same as the expected type. And it's slow because Agda ends up unraveling `sectionOfEquiv (λ p i → f (p i)) eq-cong` to its WHNF on both sides when comparing the two types.

Because of `eq-cong` the terms being compared get quite large, hence the slowness.

Ironically, the two types being compared are pretty much the same, but Agda still does not recognize them as "syntactically equal", so they get reduced.

Comment (mortberg) [reply Cubical/Foundations/EquivCharacterization.agda]: How can one fix this Saizan? Put something in a record with a single constructor (this seems to always be the answer to this question...)?

File: Cubical/Foundations/Isomorphism.agda [hunk 7]
```diff
@@ -0,0 +1,121 @@
+{-
+
+Theory about equivalences (definitions are in Core/Glue.agda)
```
Comment (mortberg) [inline Cubical/Foundations/Isomorphism.agda]: Comment is outdated

File: Cubical/Foundations/Isomorphism.agda [hunk 8]
```diff
@@ -0,0 +1,121 @@
...
+
+-}
+{-# OPTIONS --cubical --safe #-}
+module Cubical.Foundations.Isomorphism where
+
+open import Cubical.Core.Everything
+open import Cubical.Foundations.HLevels
+
+-- Proof using isPropIsContr. This is slow and the direct proof below is better
+isPropIsEquiv' : ∀ {ℓ ℓ'} {A : Set ℓ} {B : Set ℓ'} (f : A → B) → isProp (isEquiv f)
```
Comment (mortberg) [inline Cubical/Foundations/Isomorphism.agda]: Can you please move this and the two following results back to Equiv?

File: Cubical/Foundations/Isomorphism.agda [hunk 9]
```diff
@@ -0,0 +1,121 @@
...
+-- Section and retract
+module _ {ℓ ℓ'} {A : Set ℓ} {B : Set ℓ'} where
+  section : (f : A → B) → (g : B → A) → Set ℓ'
+  section f g = ∀ b → f (g b) ≡ b
+
+  -- NB: `g` is the retraction!
+  retract : (f : A → B) → (g : B → A) → Set ℓ
+  retract f g = ∀ a → g (f a) ≡ a
+
+-- Any iso is an equivalence
```
Comment (mortberg) [inline Cubical/Foundations/Isomorphism.agda]: Can you please package the data of an isomorphism into a Record?  (Maybe with the name `Iso`)

File: Cubical/Foundations/Isomorphism.agda [hunk 10]
```diff
@@ -0,0 +1,121 @@
...
+
+  isoToIsEquiv : isEquiv f
+  isoToIsEquiv .equiv-proof y .fst .fst = g y
+  isoToIsEquiv .equiv-proof y .fst .snd = s y
+  isoToIsEquiv .equiv-proof y .snd z = lemIso y (g y) (fst z) (s y) (snd z)
+
+  isoToEquiv : A ≃ B
+  isoToEquiv = _ , isoToIsEquiv
+
+module _ {ℓ ℓ'} {A : Set ℓ} {B : Set ℓ'} (w : A ≃ B) where
```
Comment (mortberg) [inline Cubical/Foundations/Isomorphism.agda]: Let's move this back to Equiv as well. The secEq and retEq statements will have to be unfolded, but that's fine

File: Cubical/Foundations/Isomorphism.agda [hunk 11]
```diff
@@ -0,0 +1,121 @@
...
+  secEq x = λ i → fst (snd (snd w .equiv-proof (fst w x)) (x , (λ j → fst w x)) i)
+
+  retEq : retract invEq (w .fst)
+  retEq y = λ i → snd (fst (snd w .equiv-proof y)) i
+
+isoToPath : ∀ {ℓ} {A B : Set ℓ} (f : A → B) (g : B → A)
+              (s : section f g) (t : retract f g) → A ≡ B
+isoToPath f g s t = ua (isoToEquiv f g s t)
+
+invEquiv : ∀ {ℓ ℓ'} {A : Set ℓ} {B : Set ℓ'} → A ≃ B → B ≃ A
```
Comment (mortberg) [inline Cubical/Foundations/Isomorphism.agda]: I guess this and the following result could also be moved to Equiv?

File: Cubical/Foundations/EquivCharacterization.agda (hunk 6 above)
Comment (mortberg) [reply Cubical/Foundations/EquivCharacterization.agda]: I don't see why... In my head the dependency should be as follows:

1. Foundations.Isomorphism: section/retract, Iso, isoToEquiv

2. Foundations.Equiv: depends on 1 and contains all the theory about equivalences

3. Foundations.Univalence: depends on 1 and 2

4. Foundations.PathSplitEquiv: depends on 1-3 and contains in particular congEquiv.

This should not lead to any circularities? The fact that congEquiv ends up in 4 is a bit unfortunate, but we can add a comment to 2 with a pointer to where it can be found.

File: Cubical/Foundations/EquivCharacterization.agda (hunk 5 above)
Comment (Saizan) [reply Cubical/Foundations/EquivCharacterization.agda]: In this case we can just make sure eq-cong doesn't show up in types that get compared:

```agda
  sectionOfEquiv' : {A' B' : Set ℓ} → (f : A' → B') → isEquiv f → B' → A'
  sectionOfEquiv' f record { equiv-proof = all-fibers-contractible } x =
    all-fibers-contractible x .fst .fst

  isSec : {A' B' : Set ℓ} → (f : A' → B') → (pf : isEquiv f) → section f (sectionOfEquiv' f pf)
  isSec f record { equiv-proof = all-fibers-contractible } x =
    all-fibers-contractible x .fst .snd

  sectionOfEquiv : {A' B' : Set ℓ} → (f : A' → B') → isEquiv f → Σ (B' → A') (section f)
  sectionOfEquiv f e = sectionOfEquiv' f e , isSec f e

  fromIsEquiv : (f : A → B) → isEquiv f → isPathSplitEquiv f
  s (fromIsEquiv f pf) = sectionOfEquiv' f pf
  sec (fromIsEquiv f pf) = isSec f pf
  secCong (fromIsEquiv f pf) x y = sectionOfEquiv cong-f eq-cong
	where
          cong-f : x ≡ y → f x ≡ f y
          cong-f = λ (p : x ≡ y) → cong f p
          eq-cong : isEquiv cong-f
          eq-cong = isEquivCong (f , pf)
```

File: Cubical/Foundations/Isomorphism.agda (hunk 9 above)
Comment (felixwellen) [reply Cubical/Foundations/Isomorphism.agda]: Maybe "isIso f" and "Iso A B" analogous to "isEquiv f" and "A \simeq B"?

Comment (mortberg) [reply Cubical/Foundations/Isomorphism.agda]: I don't like the term `isIso` as it is not a proposition... I really like the convention that everything that starts with `is` is a proposition (which goes back to Voevodsky). 

How about `isoStruct` or something to emphasize that it is a structure?

Comment (felixwellen) [reply Cubical/Foundations/Isomorphism.agda]: Yes. Are you ok with calling the witnesses for "section f inverse" "rightInv" and similar for "rectract..."?

Comment (felixwellen) [reply Cubical/Foundations/Isomorphism.agda]: Should I keep the types of "isoToEquiv" and "isoToPath" or should I use the record everywhere?

Comment (mortberg) [reply Cubical/Foundations/Isomorphism.agda]: Use the record everywhere

Comment (mortberg) [reply Cubical/Foundations/Isomorphism.agda]: > Yes. Are you ok with calling the witnesses for "section f inverse" "rightInv" and similar for "rectract..."?

Sounds good to me

File: Cubical/Foundations/EquivCharacterization.agda (hunk 5 above)
Comment (felixwellen) [reply Cubical/Foundations/EquivCharacterization.agda]: Thanks for fixing it and explaining:)

File: Cubical/Foundations/Isomorphism.agda [hunk 12]
```diff
@@ -0,0 +1,94 @@
...
+
+- Definitions of [section] and [retract]
+- Definition of isomorphisms ([Iso])
+- Any isomorphism is an equivalence ([isoToEquiv])
+
+-}
+{-# OPTIONS --cubical --safe #-}
+module Cubical.Foundations.Isomorphism where
+
+open import Agda.Primitive
```
Comment (mortberg) [inline Cubical/Foundations/Isomorphism.agda]: Why is this needed?

File: Cubical/Foundations/Isomorphism.agda [hunk 13]
```diff
@@ -0,0 +1,94 @@
...
+module _ {ℓ ℓ'} {A : Set ℓ} {B : Set ℓ'} where
+  section : (f : A → B) → (g : B → A) → Set ℓ'
+  section f g = ∀ b → f (g b) ≡ b
+
+  -- NB: `g` is the retraction!
+  retract : (f : A → B) → (g : B → A) → Set ℓ
+  retract f g = ∀ a → g (f a) ≡ a
+
+
+record isoStruct {ℓ ℓ'} {A : Set ℓ} {B : Set ℓ'} (f : A → B) : Set (ℓ ⊔ ℓ') where
```
Comment (mortberg) [inline Cubical/Foundations/Isomorphism.agda]: Why not put the f into the structure? 

The code would also look nicer if we had a constructor for this. For example `iso` or `_,_,_,_`.

File: Cubical/Foundations/Isomorphism.agda [hunk 14]
```diff
@@ -0,0 +1,94 @@
...
+  field
+    inverse : B → A
```
Comment (mortberg) [inline Cubical/Foundations/Isomorphism.agda]: Why not call this simply `inv`? Then it would match the other projections better

File: Cubical/Foundations/PathSplitEquiv.agda [hunk 15]
```diff
@@ -0,0 +1,176 @@
...
+
+- if f is an equivalence then (cong f) is an equivalence ([equivCong])
+- if f is an equivalence then pre- and postcomposition with f are equivalences ([preCompEquiv], [postCompEquiv])
+
+(those are not in 'Equiv.agda' because they need Univalence.agda (which imports Equiv.agda))
+-}
+{-# OPTIONS --cubical --safe #-}
+module Cubical.Foundations.PathSplitEquiv where
+
+open import Agda.Primitive
```
Comment (mortberg) [inline Cubical/Foundations/PathSplitEquiv.agda]: Why is this needed?

Comment (felixwellen) [reply Cubical/Foundations/PathSplitEquiv.agda]: For the max of universe levels.

File: Cubical/Foundations/Isomorphism.agda (hunk 12 above)
Comment (felixwellen) [reply Cubical/Foundations/Isomorphism.agda]: For max of universe levels.

File: Cubical/Foundations/Isomorphism.agda (hunk 13 above)
Comment (felixwellen) [reply Cubical/Foundations/Isomorphism.agda]: Yes, I can put one in.

File: Cubical/Foundations/PathSplitEquiv.agda (hunk 15 above)
Comment (mortberg) [reply Cubical/Foundations/PathSplitEquiv.agda]: This is already exported by Cubical.Core.Everything and it's called `ℓ-max`. Maybe this is a bad name, but let's use it for now.

File: Cubical/Foundations/Isomorphism.agda (hunk 14 above)
Comment (felixwellen) [reply Cubical/Foundations/Isomorphism.agda]: Ok.

Comment (felixwellen) [reply Cubical/Foundations/Isomorphism.agda]: You say we call the maps "f" and "inv"?

File: Cubical/Foundations/Isomorphism.agda (hunk 13 above)
Comment (felixwellen) [reply Cubical/Foundations/Isomorphism.agda]: I guess I can call the whole structure "Iso" then.

File: Cubical/Foundations/Isomorphism.agda (hunk 14 above)
Comment (mortberg) [reply Cubical/Foundations/Isomorphism.agda]: What about `fun` and `inv`? (that makes it all a bit funnier :-) )

**Comment by Saizan** [comment]
Btw, I decided to dig deeper about the slowness of the old `fromIsEquiv` and figured out that there was a bug in the syntactic equality heuristic: two path applications were never considered syntactically equal.

It's fixed in master now, so hopefully more things typecheck without reducing types too much

https://github.com/agda/agda/commit/e7bf512b58eb1af92a7878343d10dacf59c8ce5a

File: Cubical/Foundations/Isomorphism.agda (hunk 14 above)
Comment (felixwellen) [reply Cubical/Foundations/Isomorphism.agda]: Not sure about a good name for the map. Maybe "map", since it is the map?

Comment (felixwellen) [reply Cubical/Foundations/Isomorphism.agda]: Ok;) Let's go about it the funny way.

Comment (felixwellen) [reply Cubical/Foundations/Isomorphism.agda]: Agda doesn't know how to parse with the _,_,_,_. I switch to iso.

**Comment by mortberg** [comment]
I did a few cosmetic changes (remove parentheses and white space). I'm now very happy with this PR, so as soon as the CI is done checking that everything compiles I think we should merge. Thanks a lot for contributing!
